US06235731B1
1) Synthesis of (E)-5-(piperidin-4-yl)-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride
To the above crude (E)-5-[1-(tert-butoxycarbonyl)-piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one was added 5 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for 15 minutes. To this reaction mixture was added ethanol, followed by stirring, and the resulting precipitate was recovered by filtration and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | (E)-5-[1-(tert-butoxycarbonyl)-piperidin-4-yl]-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O | C24H29N3O3S
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (E)-5-(piperidin-4-yl)-1-(5-thia-1,8b-diazaacenaphthylen-4-yl)-1-penten-3-one dihydrochloride | Cl.Cl.N1CCC(CC1)CCC(/C=C/C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C19H21N3OS.2ClH/c23-16(5-4-14-8-10-20-11-9-14)6-7-17-12-15-13-21-18-2-1-3-19(24-17)22(15)18;;/h1-3,6-7,12-14,20H,4-5,8-11H2;2*1H/b7-6+;;
